US09301951B2
Intermediate 188c: tert-butyl 1-(3-((4-(diethylamino)-2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)phenyl)carbamoyl)phenyl)-2-methyl-1-oxo-5,8,11-trioxa-2-azatetradecan-14-oate
To a mixture of 3-((4-(diethylamino)-2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)phenyl)carbamoyl)benzoic acid (1.81 mmol, 1.2 g), tert-butyl 5,8,11-trioxa-2-azatetradecan-14-oate (1.9 mmol, 554 mg) and DIEA (12.67 mmol, 1.64 g) in DMF (5 mL) was added HATU (2.17 mmol, 826 mg). The mixture was stirred at 60° C. for 1 hour. The reaction mixture was diluted with ethyl acetate, washed with water (2×), sat. aqueous NaHCO3 (1×), brine (1×), dried and concentrated. The residue was purified by column to give a syrup (1.17 g, 75%).

reactant | 3-((4-(diethylamino)-2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)phenyl)carbamoyl)benzoic acid | 1.81 mmol, 1.2 g | C(C)N(C1=CC(=C(C=C1)NC(=O)C=1C=C(C(=O)O)C=CC1)C1=NC=CC(=C1)C(NCC1=CC(=CC=C1)C(F)(F)F)=O)CC | C32H29F3N4O4
reactant | tert-butyl 5,8,11-trioxa-2-azatetradecan-14-oate | 1.9 mmol, 554 mg | CNCCOCCOCCOCCC(=O)OC(C)(C)C | C14H29NO5
reactant | DIEA | 12.67 mmol, 1.64 g | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 2.17 mmol, 826 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl 1-(3-((4-(diethylamino)-2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)phenyl)carbamoyl)phenyl)-2-methyl-1-oxo-5,8,11-trioxa-2-azatetradecan-14-oate | 1.17 g, 75% | C(C)N(C1=CC(=C(C=C1)NC(=O)C=1C=C(C=CC1)C(N(CCOCCOCCOCCC(=O)OC(C)(C)C)C)=O)C1=NC=CC(=C1)C(NCC1=CC(=CC=C1)C(F)(F)F)=O)CC | C46H56F3N5O8
